US08138165B2
Preparation of 4′-[2-(N,N-diethylamino)ethoxy]-6,7-methylenedioxy-5-hydroxy-flavone.
Similar to the preparation of 4′-[2-(N,N-diethylamino)ethylamino]-5,7-dihydroxy-6-methoxyflavone (discussed above), the title compound is prepared starting from 6,7-methylenedioxy-5,4′-dihydroxyflavone.

reactant | 4′-[2-(N,N-diethylamino)ethylamino]-5,7-dihydroxy-6-methoxyflavone | C(C)N(CC)CCNC1=CC=C(C=2OC3=CC(=C(C(=C3C(C2)=O)O)OC)O)C=C1 | C22H26N2O5
reactant | 6,7-methylenedioxy-5,4′-dihydroxyflavone | C1OC=2C(=C3C(C=C(OC3=CC2O1)C1=CC=C(C=C1)O)=O)O | C16H10O6
product | 4′-[2-(N,N-diethylamino)ethoxy]-6,7-methylenedioxy-5-hydroxy-flavone | C(C)N(CC)CCOC1=CC=C(C=2OC3=CC4=C(C(=C3C(C2)=O)O)OCO4)C=C1 | C22H23NO6
